US08492371B2
5-(2,2,2-trifluoro-1,1-dimethylethyl)-1,3,4-thiadiazol-2-amine
Commercially available, 3,3,3-trifluoro-2,2-dimethylpropanoic acid (Matrix), thiosemicarbazide (Aldrich) and phosphorus oxychloride (Aldrich) were processed as described for Example 1A to obtain the title compound. MS (ESI+) m/z 212 (M+H)+.

reactant | 3,3,3-trifluoro-2,2-dimethylpropanoic acid | FC(C(C(=O)O)(C)C)(F)F | C5H7F3O2
reactant | thiosemicarbazide | NNC(=S)N | CH5N3S
reactant | phosphorus oxychloride | P(=O)(Cl)(Cl)Cl | Cl3OP
product | 5-(2,2,2-trifluoro-1,1-dimethylethyl)-1,3,4-thiadiazol-2-amine | FC(C(C)(C)C1=NN=C(S1)N)(F)F | C6H8F3N3S
